US08937092B2
To the solution 2-(3-cyanophenyl)acetic acid (700 mg, 43.4 mmol) in methanol was slowly added sulfuric acid (0.42 mL, 4.34 mmol) at room temperature. The reaction mixture was refluxed for 3 h at 70° C. under nitrogen atmosphere. TLC showed complete consumption of starting material. The reaction mixture was cooled to room temperature. Solvent was removed in vacuo and extracted with ethyl acetate. The organic part was washed with brine and dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford crude product which was purified by column chromatography to afford methyl 2-(3-cyanophenyl)acetate (660 mg, 84%).

reactant | 2-(3-cyanophenyl)acetic acid | 43.4 mmol, 700 mg | C(#N)C=1C=C(C=CC1)CC(=O)O | C9H7NO2
reactant | sulfuric acid | 4.34 mmol, 0.42 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | methyl 2-(3-cyanophenyl)acetate | 660 mg, 84% | C(#N)C=1C=C(C=CC1)CC(=O)OC | C10H9NO2
